US06583162B1
5-Chloro-3-phenoxy-2-pyridinamine
3-Bromo-5-chloro-2-pyridinamine (520 mg, 2.5 mmol), phenol (2.0 g, 21.3 mmol), potassium hydroxide (flakes, 85%, 600 mg, 9.1 mmol) and anhydrous copper (II) sulphate (100 mg, 0.6 mmol) and dimethoxyethane (250 μl) were heated together at 140° C. for 2 h, allowed to cool and the mixture poured into water (50 ml). EtOAc extracts (5×15 ml) were filtered through celite and extracted into 2N HCl (4×10 ml). The combined aqueous extracts were basified with NaOH and re-extracted into EtOAc (3×20 ml), dried over MgSO4, and concentrated to a brown oil (230 mg). Purification by column chromatography on silica gel eluting with hexane—EtOAc (80:20) gave the title compound as a white solid (136 mg, 0.6 mmol). An analytical sample was prepared by crystallisation from hexane:

reactant | 3-Bromo-5-chloro-2-pyridinamine | 2.5 mmol, 520 mg | BrC=1C(=NC=C(C1)Cl)N | C5H4BrClN2
reactant | phenol | 21.3 mmol, 2.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 9.1 mmol, 600 mg | [OH-].[K+]
reactant | dimethoxyethane | 250 μl | C(OC)COC | C4H10O2
catalyst | copper (II) sulphate | 0.6 mmol, 100 mg | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 50 ml | O | H2O
product | 5-Chloro-3-phenoxy-2-pyridinamine | 0.6 mmol, 136 mg | ClC=1C=C(C(=NC1)N)OC1=CC=CC=C1 | C11H9ClN2O
